US07595312B2
10.74c 2,2,2-trifluoro-1-(4-piperazin-1-yl-phenyl)-ethanone
2.0 mL TFA were added to a solution of 267 mg (0.75 mmol) tert. butyl 4-[4-(2,2,2-trifluoro-acetyl)-phenyl]-piperazin-1-carboxylate in 30 mL DCM cooled to 0° C. and the reaction mixture was stirred for 24 h, while warming up to RT. It was evaporated down i.vac.; the crude product was further reacted without purification.

reactant | TFA | 2.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert. butyl 4-[4-(2,2,2-trifluoro-acetyl)-phenyl]-piperazin-1-carboxylate | 0.75 mmol, 267 mg | FC(C(=O)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C17H21F3N2O3
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trifluoro-1-(4-piperazin-1-yl-phenyl)-ethanone | FC(C(=O)C1=CC=C(C=C1)N1CCNCC1)(F)F | C12H13F3N2O
